US05204473
A mixture of 50.0 g (271 mmol) of cyanuric chloride, 22.0 g of 50% aqueous sodium hydroxide, 22 ml of water, and 150 ml of toluene, cooled to 0° C., is admixed with a solution of 19.8 g (271 mmol) of diethylamine in 25 ml of toluene over a 45 minute interval. The reaction temperature is maintained at 0°-5° C. throughout the addition. After the addition is complete, the reaction mixture is stirred for two hours at ambient temperature. Water is added to the mixture to dissolve the sodium chloride, and the phases are separated. The organic phase is dried over magnesium sulfate and concentrated to give an oil which is crystallized from heptane to give 42.0 g (70% yield) of 2,4-dichloro-6-diethylamino-1,3,5-triazine, a white crystalline material, m.p. 77°-9° C.

reactant | cyanuric chloride | 271 mmol, 50.0 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium hydroxide | 22.0 g | [OH-].[Na+]
reactant | diethylamine | 271 mmol, 19.8 g | C(C)NCC | C4H11N
reactant | sodium chloride | [Cl-].[Na+]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
solvent | water | 22 ml | O | H2O
product | 2,4-dichloro-6-diethylamino-1,3,5-triazine | 42.0 g, 70% yield | ClC1=NC(=NC(=N1)Cl)N(CC)CC | C7H10Cl2N4
